US04363816
1,2-Dimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one
2.73 g (0.01 mole) of ethyl 3-(2-aminophenyl)amino-1,5-dimethyl-1H-pyrrole-2-carboxylate in a solution of 0.25 g (0.011 mole) of sodium in 40 ml of dry ethanol are boiled under reflux for 2 hours. After the mixture has cooled, it is neutralized carefully with acetic acid; the solvent is stripped off in vacuo, and the yellowish residue is recrystallized from dioxane. Yield: 1.9 g.

reactant | ethyl 3-(2-aminophenyl)amino-1,5-dimethyl-1H-pyrrole-2-carboxylate | 0.01 mole, 2.73 g | NC1=C(C=CC=C1)NC1=C(N(C(=C1)C)C)C(=O)OCC | C15H19N3O2
reactant | sodium | 0.011 mole, 0.25 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1,2-Dimethyl-1,4,9,10-tetrahydropyrrolo[3,2-b][1,5]benzodiazepin-10-one | CN1C(=CC=2NC3=C(NC(C21)=O)C=CC=C3)C | C13H13N3O
